US07741327B2
In a flask under argon was placed (S)-2-benzyloxycarbonylamino-4-hydroxy-butyric acid methyl ester (535 mg, 2.0 mmol) in tetrahydrofuran (5 mL). To this mixture was then added imidazole (330 mg, 4.8 mmol) and t-butyl dimethyl silyl chloride (360 mg, 2.4 mmol) and within a minute solids started to appear and N,N-dimethylformamide (1 mL) was added to solubilize the material. The mixture was stirred for 16 h at 25° C. and then diluted with water (50 mL) and the aqueous layer extracted with diethyl ether (2×50 mL) dried over sodium sulfate, filtered and concentrated in vacuo with silica gel (2 g). Purification by Biotage flash chromatography (Aspire 40 g column, 16% ethyl acetate/hexanes) afforded (S)-2-benzyloxycarbonylamino-4-(t-butyl-dimethyl-silanyloxy)-butyric acid methyl ester (478 mg, 63%) as a colorless oil.

reactant | (S)-2-benzyloxycarbonylamino-4-hydroxy-butyric acid methyl ester | 2.0 mmol, 535 mg | COC([C@H](CCO)NC(=O)OCC1=CC=CC=C1)=O | C13H17NO5
reactant | imidazole | 4.8 mmol, 330 mg | N1C=NC=C1 | C3H4N2
reactant | t-butyl dimethyl silyl chloride | 2.4 mmol, 360 mg | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | (S)-2-benzyloxycarbonylamino-4-(t-butyl-dimethyl-silanyloxy)-butyric acid methyl ester | 478 mg, 63% | COC([C@H](CCO[Si](C)(C)C(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C19H31NO5Si
